US08236806B2
1-(2-fluorophenyl)-4-(3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 179)
196.6 mg (86%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propanal (140 mg, 0.546 mmol), 1-(2-fluorophenyl)piperazine (130 mL, 0.819 mmol), and NaBH(OAc)3 (excess amount).

reactant | 3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propanal | 0.546 mmol, 140 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC=O)CCCC | C16H20N2O
reactant | 1-(2-fluorophenyl)piperazine | 0.819 mmol, 130 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-phenyl-3-butyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=CC=C1)CCCC | C26H33FN4
